US08466167B2
To a suspension of NaH (3 eq) in THF (0.2 M) stirred at 0° C. was added ethyl 2-(diethoxyphosphoryl)acetate (commercially available) (3 eq). After stirring for 30 minutes, a solution of 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylbenzaldehyde (from the previous step) in THF (0.2 M) was added dropwise. The reaction was allowed to warm to room temperature and stirred overnight. The reaction was quenched with sat. NH4Cl solution, and was extracted with EtOAc. Combined organic extracts were dried and concentrated to give a crude residue which was purified by chromatography (silica gel, 50-100% EtOAc in hexanes) to afford (E)-ethyl 3-(4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylphenyl)acrylate as a white solid. 1H NMR: (CDCl3): δ 8.54 (d, 1H), 8.29 (d, 1H), 7.99 (d, 1H), 7.57 (d, 1H), 7.44 (s, 1H), 7.23 (dd, 1H), 7.11 (dd, 1H), 7.05 (d, 1H), 6.33 (d, 1H), 5.93 (s, 2H), 4.19 (q, 2H), 3.10-2.95 (m, 4H), 2.44 (s, 3H), 2.23 (s, 3H), 1.26 (t, 3H). LRMS [M+H]=426.2

reactant | NaH | 3 eq | [H-].[Na+]
reactant | ethyl 2-(diethoxyphosphoryl)acetate | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylbenzaldehyde | NC1=NC2=C(C=3C=C(C=NC13)CCC1=C(C=C(C=O)C=C1)C)C=CC(=C2)C | C23H21N3O
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | (E)-ethyl 3-(4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylphenyl)acrylate | NC1=NC2=C(C=3C=C(C=NC13)CCC1=C(C=C(C=C1)/C=C/C(=O)OCC)C)C=CC(=C2)C | C27H27N3O2
